US09163001B2
To a suspension of commercially available chromone-2-carboxylic acid (50 g, 281 mmol) in methanol (500 mL), slurry of (10% Pd/C wet, 5 g) in water (10 mL) was added under nitrogen atmosphere. The mixture was hydrogenated at 60 psi at room temperature (RT) and further maintained hydrogen reservoir up to 60 psi for 2 h. The progress of reaction was monitored by TLC. Reaction mixture was filtered through celite and the filtrate was concentrated under reduced pressure to yield chromane-2-carboxylic acid as off-white solid (44.7 g, 95%). m/z-178.02.

reactant | chromone-2-carboxylic acid | 281 mmol, 50 g | O1C(=CC(C2=CC=CC=C12)=O)C(=O)O | C10H6O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 500 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
catalyst | Pd/C | [Pd] | Pd
product | chromane-2-carboxylic acid | 44.7 g, 95% | O1C(CCC2=CC=CC=C12)C(=O)O | C10H10O3
